US09108936B2
A solution of 2-isopropyl-6-methoxy-4-morpholin-4-yl-benzonitrile (0.37 g, 1.42 mmol) in sulfuric acid (20 ml) is heated at 100° C. for 3 h. After completion of the reaction (monitored by TLC), the mixture is poured onto ice water. The aqueous layer is basified with aqueous ammonia to pH 10 and extracted with ethyl acetate (3×20 ml). The combined organic layers are washed with water (10 ml), dried over sodium sulfate and concentrated in vacuo yielding 2-isopropyl-6-methoxy-4-morpholin-4-yl-benzamide (0.34 g, 1.22 mmol, 86%).

reactant | 2-isopropyl-6-methoxy-4-morpholin-4-yl-benzonitrile | 1.42 mmol, 0.37 g | C(C)(C)C1=C(C#N)C(=CC(=C1)N1CCOCC1)OC | C15H20N2O2
reactant | ammonia | N | H3N
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 2-isopropyl-6-methoxy-4-morpholin-4-yl-benzamide | 1.22 mmol, 0.34 g, 86% | C(C)(C)C1=C(C(=O)N)C(=CC(=C1)N1CCOCC1)OC | C15H22N2O3
